US05244898
A uniform solution of 5-(N-tert-butoxycarbonyl-L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.27 g), trifluoroacetic acid (2.5 ml) and anisole (0.6 ml) is stirred at room temperature for 2 hours. The trifluoroacetic acid is almost distilled off under reduced pressure, and the residue is acidified with an 0.2 N aqueous sodium hydroxide solution, and the mixture is extracted with dichloromethane. The dichloromethane layer is washed with water, dried over magnesium sulfate and concentrated. The resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate) to give Isomer A (0.34 g) and Isomer B (0.35 g) of 5-(L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine.

reactant | 5-(N-tert-butoxycarbonyl-L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.27 g | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)OC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O | C36H42ClN3O7S
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.6 ml | C1(=CC=CC=C1)OC | C7H8O
product | 5-(L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.35 g | N[C@@H](CCSC)C(=O)OC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O | C31H34ClN3O5S
